US07300943B2
3-Cyclobutyl-3-oxo-propionitrile
To 390 mL of THF at −78° C. was added n-BuLi (312 mL, 780 mmol, 2.5 M in hexanes). After the reaction temperature equilibrated (˜15 min), a solution of acetonitrile (40.7 mL, 780.0 mmol in 200 mL of THF) was added dropwise via an addition funnel over a 20 min period. The resulting milky-white slurry was allowed to stir for 1 hr before a solution of ethyl cyclobutane carboxalate (50.0 g, 390.1 mmol in 100 mL of THF) was added down the inside of the flask over a 15 min period. After 1 hr, the reaction was warmed to −45° C. (acetonitrile/CO2) and allowed to stir for 2 hr. The reaction was quenched cold by the dropwise addition of 2 N HCl (pH=7) and then diluted with EtOAc. The layers were separated and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to give the title compound (quantitative yield) as a colorless oil that was used without further purification. LRMS m/z (APCl) 121 (M−1).

reactant | n-BuLi | 780 mmol, 2.5 M, 312 mL | [Li]CCCC
reactant | acetonitrile | 780.0 mmol, 40.7 mL | C(C)#N | C2H3N
reactant | ethyl cyclobutane | C(C)C1CCC1 | C6H12
reactant | acetonitrile CO2 | C(C)#N.C(=O)=O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 390 mL | C1CCOC1 | C4H8O
product | 3-Cyclobutyl-3-oxo-propionitrile | quantitative yield | C1(CCC1)C(CC#N)=O | C7H9NO
